US04064265
A solution of 27.2 g of 4-(4-nitrophenyloxy)-phenylisothiocyanate (m.p. 124°-125° C) and 10 ml of 3-mercaptopropionic acid in 250 ml of anhydrous dimethyl formamide is stirred at room temperature. When the reaction is complete, the solution is poured, with stirring, into 250 ml of water. The resultant fine precipitate is collected by filtration, washed with water and dried under reduced pressure to yield the N-[4-(4-nitro-phenyloxy)-phenyl]-dithiocarbamic acid-(2-carboxyethyl)-ester with a melting point of 146° C.

reactant | 4-(4-nitrophenyloxy)-phenylisothiocyanate | 27.2 g | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C(C=C1)N=C=S | C13H8N2O3S
reactant | 3-mercaptopropionic acid | 10 ml | SCCC(=O)O | C3H6O2S
reactant | water | 250 ml | O | H2O
solvent | dimethyl formamide | 250 ml | CN(C=O)C | C3H7NO
product | N-[4-(4-nitro-phenyloxy)-phenyl]-dithiocarbamic acid-(2-carboxyethyl)-ester | C(=O)(O)CCSC(NC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=S | C16H14N2O5S2
